US05124335
To a stirred solution of 4-methyl-2-propyl-1-[[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)[1,1']-biphenyl-4-yl]methyl]-1H-pyrrolo[2,3-b]pyridine (68 mg, 0.11 mmol) in 30 mL of 2:1 MeOH--CH2Cl2 at rt was added 2 drops of conc HCl. After 30 min 3 drops of conc NH4OH were added. Concentration and purification by flash chromatography (SiO2, 25% EtOAc/hexanes) gave 2-propyl-1-[[2'-(1H-tetrazol-5-yl)-[1,1']-biphenyl-4-yl]methyl]-1H-pyrrolo[2,3-b]-pyridine as a solid. FAB MS M+ +1=395.

reactant | 4-methyl-2-propyl-1-[[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)[1,1']-biphenyl-4-yl]methyl]-1H-pyrrolo[2,3-b]pyridine | 0.11 mmol, 68 mg | CC1=C2C(=NC=C1)N(C(=C2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C44H38N6
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | HCl | 2 drops | Cl | ClH
catalyst | NH4OH | 3 drops | [NH4+].[OH-]
product | 2-propyl-1-[[2'-(1H-tetrazol-5-yl)-[1,1']-biphenyl-4-yl]methyl]-1H-pyrrolo[2,3-b]-pyridine | C(CC)C1=CC=2C(=NC=CC2)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H22N6
